US07696223B2
b) 5-tert-Butyl-1-(4-fluoro-phenyl)-2-methyl-1H-pyrrole-3-carboxylic acid ethyl ester
Prepared in analogy to that of 5-(4-fluoro-phenyl)-2-methyl-1-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester from 2-Acetyl-5,5-dimethyl-4-oxo-hexanoic acid ethyl ester and 4-fluoroaniline. The title compound, ESI MS (m/z): 304 (M+H+).

reactant | 5-(4-fluoro-phenyl)-2-methyl-1-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N(C(=C1)C1=CC=C(C=C1)F)C1=CC=CC=C1)C | C20H18FNO2
reactant | 2-Acetyl-5,5-dimethyl-4-oxo-hexanoic acid ethyl ester | C(C)OC(C(CC(C(C)(C)C)=O)C(C)=O)=O | C12H20O4
reactant | 4-fluoroaniline | FC1=CC=C(N)C=C1 | C6H6FN
product | 5-tert-Butyl-1-(4-fluoro-phenyl)-2-methyl-1H-pyrrole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N(C(=C1)C(C)(C)C)C1=CC=C(C=C1)F)C | C18H22FNO2
